US08466199B2
The reaction of methyl 2-hydroxy-5-methoxy-benzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 2-Allyloxy-5-methoxy-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.65 (br, —CO2H); 7.11 (m, 1 arom.H); 7.00 (m, 2 arom.H); 5.95 (m, —CH═CH2); 5.39, 5.17 (2 d-like, CH═CH2); 4.49 (d-like, CH2—CH═CH2); 3.68 (s, OCH3). 13C-NMR (100 MHz, d6-DMSO): 167.06 (C═O); 152.69; 150.99; 133.70; 122.54; 118.27; 116.84; 115.76; 115.08; 69.50; 55.49.

reactant | methyl 2-hydroxy-5-methoxy-benzoate | OC1=C(C(=O)OC)C=C(C=C1)OC | C9H10O4
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-Allyloxy-5-methoxy-benzoic acid | C(C=C)OC1=C(C(=O)O)C=C(C=C1)OC | C11H12O4
